US07935699B2
In a flask was placed sodium periodate (187 mg, 0.86 mmol) and water (1.5 mL). To this solution was then added dropwise (R)-2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclobutyl-propionic acid (132 mg, 0.46 mmol) in methanol (3.5 mL). The reaction was then stirred at 25° C. for 1 h after which time there was a white precipitate forming. Thin layer chromatography indicated the reaction was not complete so another portion of sodium periodate (120 mg, 0.5 mmol) in water (1 mL) was added and stirred another 1 h, the reaction was then stored at 4° C. for 16 h. The reaction was then filtered through a plug of celite and was concentrated in vacuo and then azeotroped with acetonitrile. The residue was then dissolved in methanol (6 mL) and added slowly to a solution of potassium permanganate (85 mg, 0.51 mmol) in water (1.5 mL) and stirred at 25° C. for 1 h. After this time the reaction was concentrated in vacuo and the residue was dissolved in acetonitrile and then concentrated with silica gel (2 g) in vacuo and purified on Biotage Flash chromatography system (40S column, silica gel, 80% ethyl acetate/hexanes to 10% methanol/ethyl acetate) to afford (R)-2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclobutyl-propionic acid (95 mg, 65%) as a colorless gum: [α]30589=−42.0° (c=0.20, methylene chloride); ES-HRMS m/e calcd for C14H17O4SCl (M+Na)+ 339.0428, observed 339.0427; 1H NMR (300 MHz, DMSO-d6) δ 1.49-2.16 (m, 9H, CH and 4×CH2), 3.36 (s, 3H, SO2CH3), 3.60 (t, J=7.3 Hz, 1H, ArCHCO), 7.54 (dd, Jm=1.5 Hz, Jo=8.2 Hz, 1H, Ar), 7.67 (d, Jm=1.5 Hz, 1H, Ar), 7.99 (d, Jo=8.2 Hz, 1H, Ar), 12.71 (s, 1H, CO2H).

reactant | sodium periodate | 0.86 mmol, 187 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | (R)-2-(3-chloro-4-methylsulfanyl-phenyl)-3-cyclobutyl-propionic acid | 0.46 mmol, 132 mg | ClC=1C=C(C=CC1SC)[C@H](C(=O)O)CC1CCC1 | C14H17ClO2S
reactant | sodium periodate | 0.5 mmol, 120 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | potassium permanganate | 0.51 mmol, 85 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 1 mL | O | H2O
reactant | water | 1.5 mL | O | H2O
reactant | water | 1.5 mL | O | H2O
solvent | methanol | 3.5 mL | CO | CH4O
product | (R)-2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclobutyl-propionic acid | 95 mg, 65% | ClC=1C=C(C=CC1S(=O)(=O)C)[C@H](C(=O)O)CC1CCC1 | C14H17ClO4S
